US06194410B1
10 ml of a 50% solution of NH3 in MeOH were added to a solution of 0.9 g (2 mmol) of 3-benzenesulphonyl-7-chloro-2-methylsulphanyl-5-morpholin-4-ylmethyl-pyrazolo[1,5-a]pyrimidine in 20 DMF and stirred at RT for 4 hrs. The DMF was evaporated in a high vacuum and the residue was partitioned between 2N NaOH and CH2Cl2. The aqueous phase was extracted three times with CH2Cl2 and the combined organic phases were dried (MgSO4), filtered and evaporated. Subsequent chromatography (silica gel, CH2Cl2/MeOH/NH4OH 80:10:1) and crystallization from EtOH yielded 0.70 g (83%) of 3-benzenesulphonyl-5-(4-methyl-piperazin-1-ylmethyl)-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ylamine as colorless crystals, m.p. 224-226°.

reactant | NH3 | N | H3N
reactant | 3-benzenesulphonyl-7-chloro-2-methylsulphanyl-5-morpholin-4-ylmethyl-pyrazolo[1,5-a]pyrimidine | 2 mmol, 0.9 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2Cl)CN2CCOCC2)SC | C18H19ClN4O3S2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 3-benzenesulphonyl-5-(4-methyl-piperazin-1-ylmethyl)-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ylamine | 0.70 g, 83% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N)CN2CCN(CC2)C)SC | C19H24N6O2S2
